US05053072
Methyl (4,6-dimethoxypyrimidin-2-yl)acetate
A powerful stream of hydrogen chloride gas is passed for 15 minutes into a solution of 230 ml of methyl acetate and 6.4 ml of methanol, at 0° C. to 10° C. 23.8 g of 2-cyanomethyl-4,6-dimethoxypyrimidine in 250 ml of methyl acetate are now added dropwise while more hydrogen chloride is passed in, and the passing-in of gas is stopped when the dropwise addition is complete, and stirring is continued for 5 hours at 10° C. to 15° C. 200 ml of absolute diethyl ether are added, the mixture is cooled to 5° C., and the precipitate is filtered off with suction under nitrogen. The residue is washed with ether and filtered off with suction until dry. This gives 31.5 g of the imidomethyl ester hydrochloride of melting point 110°-112° C., to which 250 ml of water are added, and the mixture is stirred for 4 hours at 40° C. The mixture is cooled to room temperature and extracted four times using four 150 ml portions of diethyl ether. The organic phase is dried over magnesium sulfate, and the solvent is distilled off. This gives 19.5 g of methyl (4,6-dimethoxypyrimidin-2-yl)acetate of boiling point 110° C./0.04 mbar (ball tube distillation).

reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 6.4 ml | CO | CH4O
reactant | 2-cyanomethyl-4,6-dimethoxypyrimidine | 23.8 g | C(#N)CC1=NC(=CC(=N1)OC)OC | C8H9N3O2
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | methyl acetate | 250 ml | C(C)(=O)OC | C3H6O2
solvent | methyl acetate | 230 ml | C(C)(=O)OC | C3H6O2
product | Methyl (4,6-dimethoxypyrimidin-2-yl)acetate | COC1=NC(=NC(=C1)OC)CC(=O)OC | C9H12N2O4
